US08871790B2
Compound 454.1. Phenyl 4-methoxy-2-methylpyridine-1(2H)-carboxylate
A 3-L four neck round-bottom flask was purged and maintained with a nitrogen atmosphere and a solution of 4-methoxypyridine (30.0 g, 275 mmol, 1.00 equiv) in tetrahydrofuran (1.2 L) was added. The mixture was cooled to −40° C. and phenyl chloroformate (45.0 g, 287 mmol, 1.05 equiv) was added dropwise. The resulting solution was stirred for 1 h at −40° C., then methylmagnesium bromide (3M, 110 mL, 1.20 equiv) was added to the reaction mixture while maintaining the temperature at −40° C. The resulting solution was warmed slowly to 5-10° C. and stirred for 2 h, then carefully quenched with ice water (100 mL). The resulting mixture was extracted with ethyl acetate (2×1 L) and the combined organics was washed with brine (1×300 mL), dried (Na2SO4), filtered and concentrated in vacuo to yield the title compound as a light brown oil (71.0 g, >theoretical).

reactant | 4-methoxypyridine | 275 mmol, 30.0 g, 1.00 equiv | COC1=CC=NC=C1 | C6H7NO
reactant | phenyl chloroformate | 287 mmol, 45.0 g, 1.05 equiv | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | methylmagnesium bromide | 3M, 110 mL, 1.20 equiv | C[Mg]Br
solvent | tetrahydrofuran | 1.2 L | O1CCCC1 | C4H8O
product | Phenyl 4-methoxy-2-methylpyridine-1(2H)-carboxylate | 71.0 g | COC1=CC(N(C=C1)C(=O)OC1=CC=CC=C1)C | C14H15NO3
